US05910498
1-(3-amino-4,6-difluorophenyl)-7-(7-amino-5-azaspiro[2.4]-heptan-5-yl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride
To 2 ml of dimethylsulfoxide were added 173 mg of 7-tert-butyloxycarbonylamino-5-azaspiro[2.4]heptane B form and 164 mg of triethylamine. With heating and stirring at 80° C., 200 mg of 1-(3-amino-4,6-difluorophenyl)-7-chloro-6-fluoro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid was added to the solution, which was stirred at the temperature overnight. After the reaction solution was allowed to cool down, diethyl ether was added thereto. The diethyl ether layer was concentrated in vacua. The residue was combined with chloroform, washed with water, and dried over magnesium sulfate. The solvent was distilled off. Diethyl ether was added to the residue whereupon the solid was collected by filtration. To the solid were added 30 ml of chloroform and 5 ml of 4N hydrochloric acid/dioxane. After stirring at room temperature for 2 hours, the reaction solution was concentrated in vacua. Diethyl ether was added to the residue whereupon the solid was collected by filtration and washed with diethyl ether to give 120 mg of the title compound.

reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | 7-tert-butyloxycarbonylamino-5-azaspiro[2.4]heptane | 173 mg | C(C)(C)(C)OC(=O)NC1CNCC12CC2 | C11H20N2O2
reactant | triethylamine | 164 mg | C(C)N(CC)CC | C6H15N
reactant | 1-(3-amino-4,6-difluorophenyl)-7-chloro-6-fluoro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid | 200 mg | NC=1C=C(C(=CC1F)F)N1C=C(C(C2=CC(=C(N=C12)Cl)F)=O)C(=O)O | C15H7ClF3N3O3
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(3-amino-4,6-difluorophenyl)-7-(7-amino-5-azaspiro[2.4]-heptan-5-yl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride | 120 mg | Cl.NC=1C=C(C(=CC1F)F)N1C=C(C(C2=CC(=C(N=C12)N1CC2(CC2)C(C1)N)F)=O)C(=O)O | InChI=1S/C21H18F3N5O3.ClH/c22-11-4-12(23)15(5-14(11)25)29-6-10(20(31)32)17(30)9-3-13(24)19(27-18(9)29)28-7-16(26)21(8-28)1-2-21;/h3-6,16H,1-2,7-8,25-26H2,(H,31,32);1H
